US20010027172A1
The alkylation of 2,2-dimethyl-1,3-propanediol with n-butyl bromide carried out essentially as in Example 8 gave the crude mono-alkylated product, which was treated with SOCl2 to give C4H9—O—CH2C(CH3)2CH2Cl, b. 80-90° C./20-30 torr. This compound was then fluorinated as in Example 1 to give C4F9—O—CF2C(CF3)2CF2Cl. 20.0 g of the latter chloride was mixed with 5.3 g water-wet Raney Ni and 50 mL of NH3-saturated methanol. The mixture was left shaking on a Parr hydrogenation apparatus for 3 days at about 25° C., with most of the 21 kPa (3 psig) hydrogen pressure drop occurring in the first day. The product was recovered by filtration and quenched in water, yielding 7.9 g with some mechanical loss. 19F-nmr confirmed the product to be C4F9—O—CF2C(CF3)2CF2H. A scaleup to 100 g gave 47 g, distilled to b.p 135° C.

reactant | 2,2-dimethyl-1,3-propanediol | CC(CO)(CO)C | C5H12O2
reactant | n-butyl bromide | C(CCC)Br | C4H9Br
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
product | C4H9—O—CH2C(CH3)2CH2Cl | C(CCC)OCC(C)(C)CCl | C9H19ClO
